Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa(Sulfonamide Antibiotics) / Amoxicillin
 
Attending: ___.
 
Chief Complaint:
None, advised to come for CT scan findings
 
Major Surgical or Invasive Procedure:
Liver biopsy

 
History of Present Illness:
Patient is a ___ y/o woman with a h/o meningioma, breast CA, 
renal cell CA who was advised to come in by PCP for finding of 
pancreatic mass on CT scan.  She was in her USOH until she had a 
spike in blood pressure in ___.  Blood work done at that time 
showed a low sodium.  She was advised to start a fluid 
restriction, and, as part of w/u, her PCP ordered ___ CT scan that 
showed 3.9 cm mass in tail of pancreas with associated thrombus, 
and she was advised to come in for assessment to ___.

She has no abdominal pain, does have constipation secondary to 
her fluid restriction, no ha, cp, sob.  + mild fatigue since mid 
___ and 5 lb weight loss since then.

In the ED, she was seen by vascular surgery and started on 
heparin gtt.  
 
Past Medical History:
Breast CA, bilaterally, with bilateral lumpectomy and XRT
H/o meningioma, s/p resection at ___
Renal cancer, s/p left nephrectomy 
Htn
 
Social History:
___
Family History:
Father had lung cancer, mother stroke, brother MI
 
Physical ___:
Exam
Afebrile 131/72 HR 84
Gen:  Thin female, articulate, NAD.  + scalloping above clavicle
Lung:  CTA B
CV:  RRR
Abd:  nabs, +palpable liver edge, nabs
Ext:  No edema
 
Pertinent Results:
___ 09:51AM BLOOD WBC-4.2 RBC-3.87* Hgb-12.3 Hct-35.9 
MCV-93 MCH-31.8 MCHC-34.3 RDW-12.7 RDWSD-42.8 Plt ___
___ 09:51AM BLOOD Neuts-75.4* Lymphs-14.7* Monos-8.7 
Eos-0.2* Baso-0.5 Im ___ AbsNeut-3.14 AbsLymp-0.61* 
AbsMono-0.36 AbsEos-0.01* AbsBaso-0.02
___ 09:51AM BLOOD Glucose-119* UreaN-7 Creat-0.7 Na-130* 
K-4.1 Cl-95* HCO3-21* AnGap-18
___ 09:53AM BLOOD Comment-GREEN TOP

___ 06:30AM BLOOD WBC-3.7* RBC-3.35* Hgb-10.9* Hct-31.9* 
MCV-95 MCH-32.5* MCHC-34.2 RDW-13.1 RDWSD-45.1 Plt ___
___ 06:30AM BLOOD Glucose-114* UreaN-10 Creat-0.8 Na-133 
K-3.9 Cl-99 HCO3-26 AnGap-12

1.  3.9 cm heterogeneously enhancing lesion at the region of the 
pancreatic
tail with large volume thrombus and dilation of the splenic vein 
with extension of thrombus into the SMV and main portal vein, 
suspicious for tumor thrombus. These findings could be related 
to a primary pancreatic neoplasm with tumor thrombus, versus 
metastatic disease from one of the patient's known primary 
malignancies.  Additionally, there is a 3.5 cm arterially 
enhancing mass within hepatic segment 5, and 1.0 cm nodule 
within the right lower lobe, suspicious for metastasis.
2.  1.7 cm peripherally enhancing cystic lesion of the 
pancreatic head.
Differential considerations include mucinous and cystic 
neoplasms,
lymphoepithelial cyst, and  IPMN.
3.  Cholelithiasis.

 
Brief Hospital Course:
Patient is a ___ y/o woman referred for admission when w/u for 
hyponatremia revealed pancreatic mass with associated tumor 
thrombus.

1.  Hyponatremia:  Likely SIADH due to malignancy. She is highly 
capable of managing her own fluid restriction.  Na of 133 on 
discharge.  
2.  Pancreatic Mass with tumor thrombus, ? liver metastasis:  
Patient seen by ___ oncology, she went for ___ guided liver 
biopsy on ___, and will f/u with her oncologist ___ 
___ on discharge to obtain result and to discuss next 
steps.  At___ staff informed me that they were coordinating her 
followup appointment.
3.  Tumor thrombus: She was started on heparin gtt and then this 
was stopped and she was started on lovenox.  She will need 
indefinite anticoagulation, but she preferred to remain 
anticoagulated on Coumadin instead of lovenox.  She was 
discharged with both and I emailed her PCP about connecting her 
with anticoagulation service to get INR checked this week.  ___ 
recommended that she resume anticoagulation the day after her 
biopsy, which is ___.  Her hemoglobin dropped slightly on 
the day of her discharge, but she had no signs of GI blood loss 
nor hemodynamic changes (in fact, blood pressures higher on the 
day of her discharge).  Hemoglobin should be rechecked when she 
follows up with her PCP.  
4.  Hypertension:  Continue amlodipine and losartan.
5.  Constipation:  treated in hospital.  
6.  Anxiety:  Continue prn Ativan.
7.  Leukopenia:  mild - WBC dropped to as low as 2.7 while in 
house.  She should have this followed up with her At___ 
oncologist. 

 
Medications on Admission:
arimidex 1 mg daily
lorazepam .5 mg po bid
losartan 50 mg po daily
amlodipine 2.5 mg po daily
 
Discharge Medications:
1. Warfarin 2.5 mg PO DAILY16 
RX *warfarin [Coumadin] 2.5 mg 2 tablet(s) by mouth a day for 
the next three days Disp #*30 Tablet Refills:*0
2. Amlodipine 2.5 mg PO DAILY 
3. Anastrozole 1 mg PO DAILY 
4. Lorazepam 0.5 mg PO Q8H:PRN anxiety 
5. Losartan Potassium 50 mg PO DAILY 
6. Enoxaparin Sodium 690 mg SC BID 
Start: Today - ___, First Dose: First Routine 
Administration Time 
7. Docusate Sodium 100 mg PO BID 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
1. Pancreatic mass with associated thrombus; liver mass.
2. History of breast cancer
3. History of renal cell cancer
4. Hypertension
5. Hyponatremia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted for evaluation of a mass in your pancreas and 
liver.    You had a biopsy of the mass on your liver and Dr 
___ give you the results when you see him next.  In 
addition, the mass had an associated blood clot so you should be 
on blood thinners.  Please take the blood thinner lovenox twice 
a day starting tomorrow and start Coumadin tomorrow as well.   
You need to get a blood test called an INR in the next few days, 
and I have notified Dr ___.   I have asked your ___ 
to draw the first lab test in a few days.  You should be able to 
purchase Colace over the counter.
 
Followup Instructions:
___